US07816395B2
d) 2-Chloro-4-{[(3S)-1-ethyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile
Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate, hydrochloride (4.0 g., 13.5 mmole) was redissolved in ethyl acetate (50 mL). Water was added (50 mL) and 10% sodium bicarbonate was added with stirring to bring the pH to 8.5. The organic layer was concentrated and redissolved in benzene (120 mL). The solution was heated with stirring at 75° C. for 6 h. The solvent was evaporated. The crude product was triturated with Et2O, chilled and the solid filtered to give the titled compound (3.0 g, 84%). LC-MS (ES) m/e 263 (M+H)+.

reactant | Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate, hydrochloride | 13.5 mmole, 4.0 g | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC)CNCC
reactant | Water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-{[(3S)-1-ethyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 3.0 g, 84% | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)CC | C13H14ClN3O
